US06468998B1
Dicyclohexylacetic acid and (S)-3-amino-1-(2-phenylethyl)pyrrolidine were reacted under the same conditions as in Example 23 to give (S)-N-(1-(2-phenylethyl)pyrrolidin-3-yl)dicyclohexylacetamide.

reactant | Dicyclohexylacetic acid | C1(CCCCC1)C(C(=O)O)C1CCCCC1 | C14H24O2
reactant | (S)-3-amino-1-(2-phenylethyl)pyrrolidine | N[C@@H]1CN(CC1)CCC1=CC=CC=C1 | C12H18N2
product | (S)-N-(1-(2-phenylethyl)pyrrolidin-3-yl)dicyclohexylacetamide | C1(=CC=CC=C1)CCN1C[C@H](CC1)NC(C(C1CCCCC1)C1CCCCC1)=O | C26H40N2O
